US05763458
Proceeding as in Example 12, Step (a), but replacing 1-(4-amino-5-chloro-2-methoxyphenyl)-3-{1-[2-(methylsulfonyl)aminoethyl]piperidin-4-ylpropan-1-one with 1-[4-amino-5-chloro-2-methoxyphenyl]-5-(piperidin-1-yl)pentan-1-one, and then as in Example 12, Step (b), but replacing 3,5-dimethoxybenzyl chloride with 3,5-dimethylbenzyl chloride, gave 1-[4-amino-5-chloro-2-(3,5-dimethylbenzyloxy)-phenyl]-5-(piperidin-1-yl)pentan-1-one hydrochloride, m.p. 218°-233° C.

reactant | 1-[4-amino-5-chloro-2-methoxyphenyl]-5-(piperidin-1-yl)pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OC | C17H25ClN2O2
reactant | 3,5-dimethylbenzyl chloride | CC=1C=C(CCl)C=C(C1)C | C9H11Cl
product | 1-[4-amino-5-chloro-2-(3,5-dimethylbenzyloxy)-phenyl]-5-(piperidin-1-yl)pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OCC1=CC(=CC(=C1)C)C | InChI=1S/C25H33ClN2O2.ClH/c1-18-12-19(2)14-20(13-18)17-30-25-16-23(27)22(26)15-21(25)24(29)8-4-7-11-28-9-5-3-6-10-28;/h12-16H,3-11,17,27H2,1-2H3;1H
